US09278968B2
To a mixture of 165 mg of 8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-3-carboxylic acid, 160 mg of 2-amino-2-(5-ethyl-1,3,4-oxadiazol-2-yl)propan-1-ol trifluoroacetate, 90 mg of 1-hydroxybenzotriazole, 0.35 ml of diisopropylethylamine, and 4 ml of DMF was added 130 mg of N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride, followed by stirring at room temperature overnight. To the reaction mixture was added water, followed by extraction with ethyl acetate. The organic layer was washed with water and a saturated aqueous sodium chloride solution, and the organic layer was dried over anhydrous magnesium sulfate. The solvent was then evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography. To the obtained crude product were added ethyl acetate and diisopropyl ether, and the insoluble materials were collected by filtration, and dried under reduced pressure to obtain 59 mg of 8-[(2,6-difluorobenzyl)oxy]-N-[2-(5-ethyl-1,3,4-oxadiazol-2-yl)-1-hydroxypropan-2-yl]-2-methylimidazo[1,2-a]pyridine-3-carboxamide.

reactant | 8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-3-carboxylic acid | 165 mg | FC1=C(COC=2C=3N(C=CC2)C(=C(N3)C)C(=O)O)C(=CC=C1)F | C16H12F2N2O3
reactant | 2-amino-2-(5-ethyl-1,3,4-oxadiazol-2-yl)propan-1-ol trifluoroacetate | 160 mg | FC(C(=O)O)(F)F.NC(CO)(C)C=1OC(=NN1)CC
reactant | 1-hydroxybenzotriazole | 90 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | diisopropylethylamine | 0.35 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 130 mg | Cl.CN(CCCN=C=NCC)C
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | 8-[(2,6-difluorobenzyl)oxy]-N-[2-(5-ethyl-1,3,4-oxadiazol-2-yl)-1-hydroxypropan-2-yl]-2-methylimidazo[1,2-a]pyridine-3-carboxamide | 59 mg | FC1=C(COC=2C=3N(C=CC2)C(=C(N3)C)C(=O)NC(CO)(C)C=3OC(=NN3)CC)C(=CC=C1)F | C23H23F2N5O4
